US05543530
(R)-[(1-Phenylethyl)Trimethylsilanylmethyl]Amine
Chloromethyl(trimethylsilyl)methylamine (25 g, 0.166 mol) was treated under reflux with (R)-(+)-α-methylbenzylamine (78.5 mL, 0.61 mol) for 6 h. After cooling 100 mL of 15% KOH was added. The resulting solution was stirred before extracting twice with diethyl ether. The organics were combined and washed with brine and dried (K2CO3). The solvent was removed in vacuo and the residue was distilled at 0.001 mm Hg to give the title compound as a clear oil between 38°-45° C.

reactant | Chloromethyl(trimethylsilyl)methylamine | 0.166 mol, 25 g | ClCNC[Si](C)(C)C | C5H14ClNSi
reactant | (R)-(+)-α-methylbenzylamine | 0.61 mol, 78.5 mL | C[C@H](C1=CC=CC=C1)N | C8H11N
solvent | KOH | 100 mL | [OH-].[K+]
product | (R)-[(1-Phenylethyl)Trimethylsilanylmethyl]Amine | C1(=CC=CC=C1)C(C)[C@@H]([Si](C)(C)C)N | C12H21NSi
